US09193845B2
In a 1 liter 2-neck roundbottom flask, 40 grams of 4-aminobenzoic acid was dissolved in about 400 mL of dioxane. Then, 19.35 g of cyclopentanecarbonyl chloride was added dropwise to the solution. The reaction intermediate, 4-(cyclopentanecarbonyl-amino)-benzoic acid, formed as a white solid in the step and was collected by filtration. After washing the product with about 200 mL dioxane and then with about 1 liter of boiling water, the reaction intermediate was dried in an oven at 110° C. The yield at this step was about 27.7 g (81%).

reactant | 4-aminobenzoic acid | 40 grams | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | cyclopentanecarbonyl chloride | 19.35 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | dioxane | about 400 mL | O1CCOCC1 | C4H8O2
product | 4-(cyclopentanecarbonyl-amino)-benzoic acid | C1(CCCC1)C(=O)NC1=CC=C(C(=O)O)C=C1 | C13H15NO3
